### PR TITLE
chore: bump mathlib to 4.19.0rc2

### PR DESCRIPTION
**Pull request by sgouezel**
Builds on #287 (but I couldn't push to this branch because I work from a fork, hence the new PR).

The issue that #287 couldn't solve is solved here in an ugly way (declaring an instance by hand with `letI`). Probably related to the new structure elaboration. I'll report the difficulty on Zulip.

The file `MeasureReal` has been upstreamed, and is therefore deleted in this PR. During the upstreaming, there was the comment that the `nnreal` version had no API, and was probably not a good idea anyway, so it has been deleted. This means that, in the project, I have replaced the lines `volume.nnreal s` with `(volume s).toNNReal`. In most cases, these are an indication that one should probably work with ENNReal instead (just like we switched from NNNorm to ENorm), but I haven't made any such change in the PR, which is a pure bump PR without any other change.

### CODE REVIEW

File: Carleson/ToMathlib/RealInterpolation.lean [hunk 1]
```diff
@@ -1227,13 +1227,14 @@ lemma lintegral_add_right_Ioi (f : ℝ → ENNReal) {a b : ℝ} :
 
 lemma lintegral_scale_constant (f: ℝ → ENNReal) {a : ℝ} (h : a ≠ 0):
     ∫⁻ x : ℝ, f (a*x) = ENNReal.ofReal |a⁻¹| * ∫⁻ x, f x := by
+  change ∫⁻ x : ℝ, f (a*x) = ENNReal.ofReal |a⁻¹| • ∫⁻ x, f x
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation.lean:1230]: This looks identical to the goal to me. Am I overlooking something/why is this line needed?

File: Carleson/ToMathlib/RealInterpolation.lean [hunk 2]
```diff
@@ -1227,13 +1227,14 @@ lemma lintegral_add_right_Ioi (f : ℝ → ENNReal) {a b : ℝ} :
...
   rw [← @lintegral_smul_measure, MeasurePreserving.lintegral_comp_emb]
   · exact measure_preserving_scaling h
   · exact measurableEmbedding_mulLeft₀ h
 
-lemma lintegral_scale_constant_preimage (f: ℝ → ENNReal) {a : ℝ} (h : a ≠ 0)
-    {s : Set ℝ}:
+lemma lintegral_scale_constant_preimage (f: ℝ → ENNReal) {a : ℝ} (h : a ≠ 0) {s : Set ℝ} :
     ∫⁻ x : ℝ in (fun z : ℝ ↦ a * z)⁻¹' s, f (a*x) = ENNReal.ofReal |a⁻¹| * ∫⁻ x : ℝ in s, f x := by
+  change ∫⁻ x : ℝ in (fun z : ℝ ↦ a * z)⁻¹' s, f (a*x) = ENNReal.ofReal |a⁻¹| • ∫⁻ x : ℝ in s, f x
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation.lean:1237]: Idem

File: Carleson/Classical/CarlesonOnTheRealLine.lean [hunk 3]
```diff
@@ -369,6 +369,7 @@ instance compatibleFunctions_R : CompatibleFunctions ℝ ℝ (2 ^ 4) where
   eq_zero := by
     use 0
     intro f
+    change f 0 = 0
```
Comment (grunweg) [inline Carleson/Classical/CarlesonOnTheRealLine.lean:372]: Do you know why this is needed?

**Review by grunweg — COMMENTED** [review]
Three small questions: otherwise, looks good to me - thanks for doing this!

File: Carleson/ToMathlib/RealInterpolation.lean (hunk 1 above)
Comment (sgouezel) [reply Carleson/ToMathlib/RealInterpolation.lean:1230]: A multiplication has been replaced by an smul.

File: Carleson/Classical/CarlesonOnTheRealLine.lean (hunk 3 above)
Comment (sgouezel) [reply Carleson/Classical/CarlesonOnTheRealLine.lean:372]: My guess is that, due to the change of structure elaboration, a coercion is not in place at some point while it used to be, so the shape of the goal has changed (it used to be with the coercion, now it's without it, but still these are definitionally the same goals)

File: Carleson/ToMathlib/RealInterpolation.lean (hunk 1 above)
Comment (grunweg) [reply Carleson/ToMathlib/RealInterpolation.lean:1230]: Would you like to change this to e.g. `rw [smul_def]` (or something like that)? Optional.

Comment (sgouezel) [reply Carleson/ToMathlib/RealInterpolation.lean]: Done.

**Comment by grunweg** [comment]
Thanks! I'll merge this when CI has finished.

**Comment by pitmonticone** [comment]
Thank you so much @sgouezel!

**Comment by fpvandoorn** [comment]
Thanks! Removing the `nnreal` version sounds good to me. I think moving away from `NNReal` is usually a good thing.
